US07053060B2
To a solution methyl 4-(4-ethylbenzyl)-3-hydroxybenzoate (1.28 g) in N,N-dimethylformamide (14 mL) were added potassium carbonate (0.98 g) and benzyl bromide (0.62 mL), and the mixture was stirred at room temperature for 19 hours. The reaction mixture was poured into water, and the mixture was extracted twice with diethyl ether. The combined organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give methyl 3-benzyloxy-4-(4-ethylbenzyl)benzoate (1.6 g).

reactant | methyl 4-(4-ethylbenzyl)-3-hydroxybenzoate | 1.28 g | C(C)C1=CC=C(CC2=C(C=C(C(=O)OC)C=C2)O)C=C1 | C17H18O3
reactant | potassium carbonate | 0.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.62 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
product | methyl 3-benzyloxy-4-(4-ethylbenzyl)benzoate | 1.6 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1CC1=CC=C(C=C1)CC | C24H24O3
